US08247430B2
5-Fluoro-pyridine-2-carbonitrile
The mixture of 5-bromo-pyridine-2-carbonitrile (0.50 g, 2.73 mmol), and KF (0.48 g, 8.20 mmol) in 10 ml of 1-methyl-2-pyrrolidinone was stirred at 175° C. for 18 h, cooled to RT, diluted with H2O, extracted with EtOAc, the combined organic portions were washed with H2O, brine, dried with Na2SO4, filtered, condensed, the crude compound was purified by flash column chromatography (5 to 20% of EtOAc in hexanes). The titled compound was obtained as an off-white solid.

reactant | 5-bromo-pyridine-2-carbonitrile | 2.73 mmol, 0.50 g | BrC=1C=CC(=NC1)C#N | C6H3BrN2
reactant | KF | 8.20 mmol, 0.48 g | [F-].[K+]
solvent | 1-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | H2O | O | H2O
product | 5-Fluoro-pyridine-2-carbonitrile | FC=1C=CC(=NC1)C#N | C6H3FN2
